US05041509
Referring to the above reaction diagram, tetrahydroquinoline may be alkylated in methanol by adding excess bromoethanol, sodium iodide and potassium carbonate and refluxing the solution for 24 hours. The product is preferably isolated in water and purified by vacuum distillation. If phenylpiperazine is the starting material, it is alkylated under the same reaction conditions. A 1-phenyl-4-piperidinol structure is synthesized by preparing N-but-3-enyl--N-methylaniline, and treating with aqueous trifluoroacetic acid. N-but-3-enyl--N-methylaniline is provided by alkylation of N-methylaniline with 4-bromobut-1-ene. 1-Phenyl-3-pyrrolidinol is synthesized by the reaction of aniline with 1,4-dibromo-2-butanol.

reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | 1,4-dibromo-2-butanol | BrCC(CCBr)O | C4H8Br2O
product | 1-Phenyl-3-pyrrolidinol | C1(=CC=CC=C1)N1CC(CC1)O | C10H13NO
